US07067517B2
Methyl-phenyl-carbamic acid 3,5-bis-(4-methoxy-phenyl)-pyrazol-1-yl ester
The title compound was prepared from 1-hydroxy-3,5-bis-(4-methoxyphenyl)pyrazole and N-methyl-N-phenylcarbamoyl chloride applying the general procedure 8. The crude product was purified by flash chromatography (Quad flash 12,.EtOAc-heptane) (29%, beige crystals).

reactant | 1-hydroxy-3,5-bis-(4-methoxyphenyl)pyrazole | ON1N=C(C=C1C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C17H16N2O3
reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
product | Methyl-phenyl-carbamic acid 3,5-bis-(4-methoxy-phenyl)-pyrazol-1-yl ester | COC1=CC=C(C=C1)C1=NN(C(=C1)C1=CC=C(C=C1)OC)OC(N(C1=CC=CC=C1)C)=O | C25H23N3O4
